US07989444B2
2-(1,1-Dimethylethyl)-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(1,1-dimethylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.20 mmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a yellow slightly hygroscopic solid (59 μmmol).

reactant | 2-(1,1-dimethylethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.20 mmol | CC(C)(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C15H20N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2-(1,1-Dimethylethyl)-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC(C)(C)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1 | InChI=1S/C31H36N6OS.ClH/c1-20-10-11-23-24(8-6-9-25(23)32-20)28-34-35-30(36(28)5)39-17-7-14-37-15-12-21-18-26-27(19-22(21)13-16-37)38-29(33-26)31(2,3)4;/h6,8-11,18-19H,7,12-17H2,1-5H3;1H
